US04578393
1-(2-Chlorophenyl)-3-dimethylamino-1,4-dihydroisoquinoline hydrochloride
1-(2-Chlorophenyl)-1,4-dihydroisoquinol-3-one (11.0 g, 43 mmol) was dissolved in dimethylcarbamyl chloride (50 g) on an oil bath (bath temperature 160°-170° C.) for 1 and three quarter hours. The mixture was cooled, evaporated under reduced pressure and partitioned between water (150 ml), 5M hydrochloric acid, ethyl acetate (100 ml) and chloroform (100 ml). The organic layer was separated and extracted with a portion of water (50 ml). The combined aqueous extracts were washed with ethyl acetate (3×25 ml) and basified (10% sodium hydroxide) to pH 14. The oil so formed was extracted with ethyl acetate (2×100 ml) and the combined ethyl acetate layers were washed with brine (50 ml) and dried over sodium sulphate. The solution was filtered and reduced to 100 ml under reduced pressure. Ethereal hydrogen chloride was added to precipitate the salt. After trituration, the solid was filtered off and dried in the vacuum over (90° C., 1 mm). This gave 1-(2-chlorophenyl)-3-dimethylamino-1,4-dihydroisoquinoline hydrochloride (5.7 g, 42%) m.p. 162°-6° C. (soften then hardened and remelted 252°-5° C.). I.R. νmax (Nujol) 1650 cm-1.

reactant | 1-(2-Chlorophenyl)-1,4-dihydroisoquinol-3-one | 43 mmol, 11.0 g | ClC1=C(C=CC=C1)C1NC(CC2=CC=CC=C12)=O | C15H12ClNO
reactant | dimethylcarbamyl chloride | 50 g | CN(C(=O)Cl)C | C3H6ClNO
product | 1-(2-Chlorophenyl)-3-dimethylamino-1,4-dihydroisoquinoline hydrochloride | Cl.ClC1=C(C=CC=C1)C1N=C(CC2=CC=CC=C12)N(C)C | InChI=1S/C17H17ClN2.ClH/c1-20(2)16-11-12-7-3-4-8-13(12)17(19-16)14-9-5-6-10-15(14)18;/h3-10,17H,11H2,1-2H3;1H
